US04550166
3-Methyl-7-(4-pyridinyl)-1,2,4-triazolo[4,3-a]pyridine
A mixture of 1.3 g of 2-chloro-4,4'-bipyridine and 6.5 ml of anhydrous hydrazine in 40 ml of dry pyridine was refluxed for 24 hours under argon and then concentrated. The residue was dissolved in methylene chloride, treated with activated carbon and the solvent was removed giving an oil which was crystallized from ether-hexane-methylene chloride. A 1.3 g portion of these crystals of 2-hydrazino-4,4'-bipyridine was combined with 50 ml of triethyl orthoacetate and heated on a steam bath for 1 hour. After standing overnight, hexane was added and after further standing, crystals separated. These crystals were collected and recrystallized from acetonehexane, giving the desired product as off-white crystals, mp 223°-226° C.

reactant | 2-chloro-4,4'-bipyridine | 1.3 g | ClC1=NC=CC(=C1)C1=CC=NC=C1 | C10H7ClN2
reactant | hydrazine | 6.5 ml | NN | H4N2
reactant | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 3-Methyl-7-(4-pyridinyl)-1,2,4-triazolo[4,3-a]pyridine | CC1=NN=C2N1C=CC(=C2)C2=CC=NC=C2 | C12H10N4
